US04128564
Preparation of 8-methylsulfonyl-12-hydroxy-13-(4-fluorophenoxy)tridecanoic acid
A mixture of methyl 8-methylsulfonyl-8-methoxycarbonyl-12-benzyloxy-13-(4-fluorophenoxy)tridecanoate (2.60 g., 4.5 mmoles), sodium chloride (0.5 g., 8.5 mmoles), dimethylformamide (8 ml.) and water (0.2 ml.) is heated with an oil bath at 160° C. overnight (ca. 15 hours). The reaction mixture is allowed to cool to room temperature, quenched with cold water, and then extracted with chloroform three times. The combined extracts are washed with brine and dried over anhydrous magnesium sulfate. The solvent is removed by evaporation in vacuo leaving the desired product as a viscous oil residue (2.30 g., 4.4 mmoles, 98%). ir (neat) 3.40, 5.72, 6.20, 6.62, 6.87, 7.71, 8.00, 8.28, 8.90, 12.04, 13.17, 14.37μ; pmr CCl4) δ 1.0-2.9 (22H, m, containing a methyl singlet at 2.60 δ), 3.54 (3H, s); 3.5-4.1 (3H, m), 4.47 (1H, d, J=12Hz), 4.70 (1H, d, J= 12Hz), 6.6-7.1 (4H, m), 7.20 (5H, s).

reactant | methyl 8-methylsulfonyl-8-methoxycarbonyl-12-benzyloxy-13-(4-fluorophenoxy)tridecanoate | 4.5 mmoles, 2.60 g | CS(=O)(=O)C(CCCCCCC(=O)OC)(CCCC(COC1=CC=C(C=C1)F)OCC1=CC=CC=C1)C(=O)OC | C30H41FO8S
reactant | sodium chloride | 8.5 mmoles, 0.5 g | [Cl-].[Na+]
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | 0.2 ml | O | H2O
product | 8-methylsulfonyl-12-hydroxy-13-(4-fluorophenoxy)tridecanoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CCCC(COC1=CC=C(C=C1)F)O | C20H31FO6S
